US04313959
26.25 ml of 2.4 molar solution of n-butyllithium in n-hexane is added dropwise with stirring at -50° to -40° C. under dry nitrogen to a solution of 10.87 g of 2-bromodiphenylmethane in 25 ml of dry THF. The mixture is stirred at -50° to -40° C. for one hour after addition is completed. A solution of 6.30 g of 1,4-dioxaspiro(4.5)decan-8-one in 20 ml of dry THF is added dropwise at -50° to -40° C. This mixture is stirred overnight (16 hours) at -70° C. to +10° C., and quenched with 50 ml of water. The organic phase is diluted with 100 ml of ether and washed three times with 50 ml portions of water. The aqueous phase and the washing water are extracted with 100 ml of CH2Cl2, which is washed twice with 50 ml portions of water. The combined organic phases are dried over Na2SO4 and evaporated to an oil. This oil is treated with ether/hexane (20 ml/50 ml) mixture to give 6.0 g (45.8%) yield of crystalline product which is recrystallized from ether/hexane (10 ml/40 ml) to provide 5.53 g (42.2% yield) of 8-[2-(phenylmethyl)phenyl]-1,4-dioxaspiro(4.5)decan-8-ol, m.p. 97°-98° C.

reactant | n-butyllithium | C(CCC)[Li]
reactant | 2-bromodiphenylmethane | 10.87 g | C1=CC=C(C=C1)CC2=CC=CC=C2Br | C13H11Br
reactant | 1,4-dioxaspiro(4.5)decan-8-one | 6.30 g | O1CCOC12CCC(CC2)=O | C8H12O3
solvent | n-hexane | CCCCCC | C6H14
solvent | THF | 25 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 8-[2-(phenylmethyl)phenyl]-1,4-dioxaspiro(4.5)decan-8-ol | 5.53 g, 42.2% yield | C1(=CC=CC=C1)CC1=C(C=CC=C1)C1(CCC2(OCCO2)CC1)O | C21H24O3
